US05952351
(±)cis/trans-1,1-Dioxido-2-(4-(2-cyano-4-(3-propyl-2-oxo-1-benzimidazolinyl)piperidin-1-yl)butyl)-5-chloro-1,2-benzisothiazol-3(2H)-one
From (±)cis/trans-2-cyano-4-(3-n-propyl-2-oxo-1-benzimidazolinyl)-piperidine and 1,1 -dioxido-2-(4-bromobutyl)-5-chloro-1,2-benzisothiazol-3(2H)-one using a modification of the procedure described in Example 1, Step 4, wherein one equivalent of potassium iodide was added and the reaction was warmed at 80° C. for 24 hours, there was obtained a white solid after chromatographic purification, melting point 159-160° C. The NMR was consistent with structure.

reactant | trans-2-cyano-4-(3-n-propyl-2-oxo-1-benzimidazolinyl)-piperidine | C(#N)[C@@H]1NCC[C@H](C1)N1C(N(C2=C1C=CC=C2)CCC)=O | C16H20N4O
reactant | 1,1 -dioxido-2-(4-bromobutyl)-5-chloro-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC(=C2)Cl)=O)CCCCBr)=O | C11H11BrClNO3S
reactant | potassium iodide | one equivalent | [I-].[K+]
product | trans-1,1-Dioxido-2-(4-(2-cyano-4-(3-propyl-2-oxo-1-benzimidazolinyl)piperidin-1-yl)butyl)-5-chloro-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC(=C2)Cl)=O)CCCCN2[C@H](C[C@@H](CC2)N2C(N(C1=C2C=CC=C1)CCC)=O)C#N)=O | C27H30ClN5O4S
